US06358980B1
4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-chloro-benzyl)-piperdine-4-carboxylic acid was prepared starting from 4-(4-but-2-ynyloxy-benzenesulfonyl)-1-(4-chloro-benzyl)-piperdine-4-carboxylic acid ethyl ester (3.14 g, 6.42 mmol) dissolved in THF:methanol 3:1 (100 ml) and 10 N NaOH (10 ml). The resulting reaction mixture was worked up as outlined in Example 1 (Step 7). Yield 2.37 g (80%); white solid; mp 205° C.; MS: 461.9 (M+H)+

reactant | 4-(4-but-2-ynyloxy-benzenesulfonyl)-1-(4-chloro-benzyl)-piperdine-4-carboxylic acid ethyl ester | 6.42 mmol, 3.14 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)Cl)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C25H28ClNO5S
solvent | THF methanol | 100 ml | C1CCOC1.CO
solvent | NaOH | 10 N, 10 ml | [OH-].[Na+]
product | 4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-chloro-benzyl)-piperdine-4-carboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC=C(C=C1)Cl)C(=O)O | C23H24ClNO5S
